US09328106B2
To a solution of (E)-3-methylpent-3-en-2-one (2.69 mL, 24.1 mmol) in DCM (200 mL) cooled to 0° C. was added Et3N (10.5 mL, 79.5 mmol) followed by TESOTf (6.0 mL, 26.5 mmol). The mixture was warmed to room temperature and stirred for 18 hr. Saturated aqueous NaHCO3 solution (100 mL) and DCM (200 mL) were added. The aqueous layer was extracted with DCM (3×200 mL) and the combined organic layers were washed with brine (100 mL), separated, dried over MgSO4 and concentrated under reduced pressure to give (E)-triethyl((3-methylpenta-1,3-dien-2-yl)oxy)silane. To a solution of 2-methyl-4-nitro-pyrazole-3-carbaldehyde (1.0 g, 8 mmol, intermediate 3) in CDCl3 (28 mL) was added (E)-triethyl((3-methylpenta-1,3-dien-2-yl)oxy)silane (1.6 g, 7.55 mmol) followed by EuFOD (220 mg, 0.50 mmol). The reaction mixture was heated at 65° C. behind a blast shield for 18 hr in a pressure tube. The mixture was cooled to room temperature and concentrated under reduced pressure. Purification via silica gel column chromatography (0-100% EtOAc/isohexane) gave 5-(5,6-dimethyl-4-((triethylsilyl)oxy)-3,6-dihydro-2H-pyran-2-yl)-1-methyl-4-nitro-1H-pyrazole as a colourless oil (2.92 g, quantitative). 1H NMR (400 MHz, CDCl3) δ 8.07 (s, 1H), 5.64 (dd, J=10.9, 3.6 Hz, 1H), 4.33-4.28 (m, 1H), 4.25-3.94 (m, 3H), 2.50-2.41 (m, 1H), 2.31 (m, 1H), 1.61 (s, 3H), 1.31 (d, J=6.4 Hz, 3H), 1.05-0.97 (m, 6H), 0.73-0.61 (m, 9H).

reactant | (E)-3-methylpent-3-en-2-one | 24.1 mmol, 2.69 mL | C/C(/C(C)=O)=C\C | C6H10O
reactant | Et3N | 79.5 mmol, 10.5 mL | CCN(CC)CC | C6H15N
reactant | TESOTf | 26.5 mmol, 6.0 mL | [Si](CC)(CC)(CC)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | (E)-triethyl((3-methylpenta-1,3-dien-2-yl)oxy)silane | C(C)[Si](OC(=C)\C(=C\C)\C)(CC)CC | C12H24OSi
